US03998844
The uncatalyzed aroylation process of this invention surprisingly affords better yields of the product, 4-R1 -1-loweralkyl-5-aroylpyrrole-2-acetic acid ester or nitrile. Moreover, when R1 is hydrogen, the usual alpha to beta ratio of product in acylation reactions, that is, the distribution of α-aroylated and β-aroylated isomers, is very greatly shifted in favor of the α-substituted product. For example, in the AlCl3 catalyzed Friedel Crafts reaction of p-chlorobenzoyl chloride with 1-methylpyrrole-2-acetonitrile, a 21% yield of the α-product, 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile, is obtained and the ratio of this α-isomer to the corresponding β-isomer, 4-(p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile, is about 2.5:1; and in the similarly catalyzed reaction of p-toluoyl chloride with 1-methylpyrrole-2-acetonitrile, a 25% yield of the α-product, 5-(p-toluoyl)-1-methylpyrrole-2-acetonitrile, is obtained with an alpha to beta isomer ratio of 3.7:1 [see Carson et al., J. Med. Chem., 14, 646 (1971)]. In contrast, the uncatalyzed reaction of p-chlorobenzoyl chloride with 1-methylpyrrole-2-acetonitrile in refluxing xylene for about 24 hours affords 46% of the corresponding α-product with an α/β ratio of about 440:1; and the uncatalyzed reaction of p-toluoyl chloride with 1-methylpyrrole-2-acetonitrile in refluxing o-dichlorobenzene for about 4 hours affords 55% of the corresponding α-product with an α/β ratio of about 180:1.

reactant | 4-(p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile | ClC1=CC=C(C(=O)C=2C=C(N(C2)C)CC#N)C=C1 | C14H11ClN2O
reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | 1-methylpyrrole-2-acetonitrile | CN1C(=CC=C1)CC#N | C7H8N2
product | 5-(p-toluoyl)-1-methylpyrrole-2-acetonitrile | 25% yield | C1(=CC=C(C=C1)C(=O)C1=CC=C(N1C)CC#N)C | C15H14N2O
